US07074800B1
6-Methoxy-7-(3-methylsulphonylpropoxy)-3,4-dihydroquinazolin-4-one (3.6 g, 11.5 mmol) was suspended in thionyl chloride (40 ml). DMF (1.8 ml) was added under argon and the mixture was heated at reflux for 1.5 hours. The thionyl chloride was eliminated by several azeotropic distillations using toluene. The solid residue was suspended in ice/water and a saturated solution of sodium hydrogen carbonate was added to adjust the mixture to pH7. The solid was collected by filtration, washed with water and dried in a vacuum dessicator over phosphorus pentoxide to give 4-chloro-6-methoxy-7-(3-methylsulphonylpropoxy)quinazoline (3.35 g, 88%).

reactant | 6-Methoxy-7-(3-methylsulphonylpropoxy)-3,4-dihydroquinazolin-4-one | 11.5 mmol, 3.6 g | COC=1C=C2C(NC=NC2=CC1OCCCS(=O)(=O)C)=O | C13H16N2O5S
reactant | DMF | 1.8 ml | CN(C)C=O | C3H7NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-6-methoxy-7-(3-methylsulphonylpropoxy)quinazoline | 3.35 g, 88% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCS(=O)(=O)C | C13H15ClN2O4S
